US08304419B2
Step A: Methyl 3-chloro-5-({[2-(1-pyrrolidinyl)ethyl]amino}carbonyl)-1H-pyrrole-2-carboxylate
A solution of methyl 3-chloro-5-(chlorocarbonyl)-1H-pyrrole-2-carboxylate (0.100 g, 0.387 mmol) in 4 mL of DCM was treated with [2-(1-pyrrolidinyl)ethyl]amine (0.110 g, 0.967 mmol). After 1 hour saturated NaHCO3 was added and the mixture shaken. The DCM layer was separated, dried over MgSO4 and evaporated onto silica gel. Purification was accomplished on silica with 0 to 10% MeOH in EtOAc to afford the title compound (0.080 g, 69%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.38 (t, 1H), 6.80 (d, 1H), 3.78 (s, 3H), 3.32 (q, 2H), 2.52 (t, 2H), 2.45 (br. s., 4H), 1.65 (br. s., 4H). LCMS: m/z 298.2 (M−1).

reactant | methyl 3-chloro-5-(chlorocarbonyl)-1H-pyrrole-2-carboxylate | 0.387 mmol, 0.100 g | ClC1=C(NC(=C1)C(=O)Cl)C(=O)OC | C7H5Cl2NO3
reactant | [2-(1-pyrrolidinyl)ethyl]amine | 0.967 mmol, 0.110 g | N1(CCCC1)CCN | C6H14N2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | Methyl 3-chloro-5-({[2-(1-pyrrolidinyl)ethyl]amino}carbonyl)-1H-pyrrole-2-carboxylate | 0.080 g, 69% | ClC1=C(NC(=C1)C(=O)NCCN1CCCC1)C(=O)OC | C13H18ClN3O3
